US05691323
2-(1-Azidoethyl)pyrazine (0.77 g) and 10% palladium on carbon (0.075 g) were stirred in ethanol (40 mL) under an atmosphere of hydrogen at room temperature for 2 h. The mixture was filtered through a pad of celite and the filtrate concentrated under reduced pressure to yield 2-(1-aminoethyl)pyrazine (0.56 g) as a pale oil

reactant | 2-(1-Azidoethyl)pyrazine | 0.77 g | N(=[N+]=[N-])C(C)C1=NC=CN=C1 | C6H7N5
catalyst | palladium on carbon | 0.075 g | [Pd] | Pd
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-(1-aminoethyl)pyrazine | 0.56 g | NC(C)C1=NC=CN=C1 | C6H9N3
